US05773423
To a solution of 1-O-methyl 5-(t-butyldiphenylsilyl)-β-D-ribofuranoside (579 mg, 1.44 mmol) in methylene chloride-pyridine (4:1, 12.5 ml) was added dropwise benzoyl chloride (0.367 ml, 3.16 mmol) at 0° C. The reaction mixture was stirred for 2.5 h at 0° C. and for 14.5 h at room temperature. Ice was added to quench the reaction and the mixture was stirred for 1 h. Methylene chloride (100 ml) was added and two phases were separated. Organic layer was washed with water, saturated ammonium chloride, and brine, dried over anhydrous MgSO4, filtered, and concentrated to dryness to yield 1-O-methyl 5-(t-butyldiphenylsilyl)-2,3-dibenzoyl-β-D-ribofuranoside in crude form, which was then purified by silica gel column chromatography (Hx-EtOAc, 5:1→1:1) to yield 1-O-methyl 5-(t-butyldiphenylsilyl)-2,3-dibenzoyl-β-D-ribofuranoside in more pure form [Rf =0.75 (CHCl3 --MeOH, 10:1), 869 mg, 99%] as a thick syrup. 1H NMR (CDCl3) d 1.05 (s, 9H, t-Bu), 3.42 (s, 3H, --OCH3), 3.86 (dd, J=11.1 and 4.8 Hz, 1H, H-5a), 3.92 (dd, J=11.1 and 4.7 Hz, 1H, H-5b), 4.48 (dd, J=10.6 and 4.6 Hz, 1H), 5.15 (s, 1H), 5.63 (d, J=5.0 Hz, 1H), 5.82 (pseudo t, J=5.8 and 5.4 Hz, 1H), 7,29-8.18 (m, 20H, Ar). Anal. Calcd for C36H38O7Si1 : C, 70.79; H, 6.27; Found: C, 71.01; H, 6.20.

reactant | 1-O-methyl 5-(t-butyldiphenylsilyl)-β-D-ribofuranoside | 1.44 mmol, 579 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)C([C@@H]1[C@H]([C@H]([C@H](OC)O1)O)O)O | C22H30O5Si
reactant | benzoyl chloride | 3.16 mmol, 0.367 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride pyridine | 12.5 ml | C(Cl)Cl.N1=CC=CC=C1
product | 1-O-methyl 5-(t-butyldiphenylsilyl)-2,3-dibenzoyl-β-D-ribofuranoside | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)C([C@@H]1[C@]([C@]([C@H](OC)O1)(O)C(C1=CC=CC=C1)=O)(O)C(C1=CC=CC=C1)=O)O | C36H38O7Si
